US05491132
A solution of benzyl (2S)-2-[N-[2-{N-(hexahydro-1H-azepin-1-ylcarbonyl)-N-methylamino}ethyl]-N-methylaminocarbonyl]oxy-3-phenylpropionate (1.43 g) in methanol (20 ml) was hydrogenated over 10% palladium on carbon (0.2 g) at 3 atmospheric pressure of hydrogen gas for 1 hour at ambient temperature. The solution was filtered and concentrated in vacuo to give (2S)-2-[N-[2-{N-(hexahydro-1H-azepin-1-ylcarbonyl)-N-methylamino}ethyl]-N-methylaminocarbonyl]oxy-3-phenylpropionic acid (1.09 g) as an oil. Rf: 0.44 (chloroform:methanol:acetic acid, 16:1:1, V/V)

reactant | benzyl (2S)-2-[N-[2-{N-(hexahydro-1H-azepin-1-ylcarbonyl)-N-methylamino}ethyl]-N-methylaminocarbonyl]oxy-3-phenylpropionate | 1.43 g | N1(CCCCCC1)C(=O)N(C)CCN(C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)C | C28H37N3O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | (2S)-2-[N-[2-{N-(hexahydro-1H-azepin-1-ylcarbonyl)-N-methylamino}ethyl]-N-methylaminocarbonyl]oxy-3-phenylpropionic acid | 1.09 g | N1(CCCCCC1)C(=O)N(C)CCN(C(=O)O[C@H](C(=O)O)CC1=CC=CC=C1)C | C21H31N3O5
